US06878714B2
6-Dimethoxymethyl-pyrimidin-4-ol (12.5 g, 73 mmol, prepared according to the procedure of J. Adams et al Biorg. Med. Chem. Lett. 8, 22, 1998, 3111-3116) was dissolved in 0.5% aqueous H2SO4 (100 ml) and stirred at 67° C. for about 30 min. 10% aqueous H2SO4 (5 ml) was added, and the reaction was stirred at 70° C. for 1.5 h. The mixture was cooled to 5° C. and stirred. NaOH solution was added (1 N, 33 ml) followed by saturated aqueous NaHCO3 (to adjust the pH to 7.5). Hydroxylamine hydrochloride was added carefully, portionwise (50.7 g, 730 mmol), producing a peach suspension. Saturated aqueous NaHCO3 was added to bring the total reaction volume to about 700 ml and the pH back to 7.5. The mixture was stirred overnight and filtered, rinsing with H2O and then t-BuOMe to obtain 6-hydroxy-pyrimidine-4-carbaldehyde oxime as a light tan solid. MS: 140.0 (M+1), 137.9 (M−1); Calc'd. for C5H5N3O2—139.11.

reactant | 6-Dimethoxymethyl-pyrimidin-4-ol | COC(C1=CC(=NC=N1)O)OC | C7H10N2O3
reactant | NaOH | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Hydroxylamine hydrochloride | Cl.NO
solvent | H2SO4 | 100 ml | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 5 ml | OS(=O)(=O)O | H2O4S
product | 6-hydroxy-pyrimidine-4-carbaldehyde oxime | OC1=CC(=NC=N1)C=NO | C5H5N3O2
